US04503061
1-[4-(2-Nitro-1-propenyl)phenyl]-1H-imidazole
A mixture of 292 g (1.70 mole) of 4-(1H-imidazol-1-yl)benzaldehyde, 153.7 g (1.97 mole) of nitroethane (96%), and 15.4 g (0.173 mole) of β-alanine in 1000 ml n-butanol is refluxed for nine hours. The reaction mixture is allowed to cool overnight, the solid collected, and washed successively with ether and water to give 78.7 g of dark yellow crystals, mp 119°-120° C. Concentration of the filtrate to approximately 500 ml and cooling at 0° gave a second crop (87.2 g) of the product, mp 116°-118° C.

reactant | 4-(1H-imidazol-1-yl)benzaldehyde | 1.70 mole, 292 g | N1(C=NC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
reactant | nitroethane | 1.97 mole, 153.7 g | [N+](=O)([O-])CC | C2H5NO2
reactant | β-alanine | 0.173 mole, 15.4 g | NCCC(=O)O | C3H7NO2
solvent | n-butanol | 1000 ml | C(CCC)O | C4H10O
product | 1-[4-(2-Nitro-1-propenyl)phenyl]-1H-imidazole | 78.7 g | [N+](=O)([O-])C(=CC1=CC=C(C=C1)N1C=NC=C1)C | C12H11N3O2
